US06875765B2
The 3-(2-benzyloxy-4-nitro-benzenesulfonylamino)-N-methoxy-N-methyl-succinamic acid tert-butyl ester was dissolved in 1:1 THF/MeOH, and Raney Ni added. The solution was hydrogenated at 30 psi. When the reaction was complete, the solvent was removed to give the crude give 3-(4-amino-2-benzyloxy-benzenesulfonylamino)-N-methoxy-N-methyl-succinamic acid tert-butyl ester. The product can be used crude, or chromatographed with 7.5% methanol/ethyl acetate. 1H NMR (CDCl3) 7.65-7.3 (8H, m), 6.2 (2H, m), 5.78 (2H, d, J=9.76 Hz), 5.2-5.1 (2H, m), 4.8-4.7 (1H, m), 4.2-4.0 (2H, br), 3.59 (3H, s), 2.56 (3H, s), 2.6-2.4 (2H, m), 1.41 (9H, s). MS (m/z) (M+1)=494.

reactant | 3-(2-benzyloxy-4-nitro-benzenesulfonylamino)-N-methoxy-N-methyl-succinamic acid tert-butyl ester | C(C)(C)(C)OC(CC(C(=O)N(C)OC)NS(=O)(=O)C1=C(C=C(C=C1)[N+](=O)[O-])OCC1=CC=CC=C1)=O | C23H29N3O9S
solvent | THF MeOH | C1CCOC1.CO
solvent | Ni | [Ni] | Ni
product | 3-(4-amino-2-benzyloxy-benzenesulfonylamino)-N-methoxy-N-methyl-succinamic acid tert-butyl ester | C(C)(C)(C)OC(CC(C(=O)N(C)OC)NS(=O)(=O)C1=C(C=C(C=C1)N)OCC1=CC=CC=C1)=O | C23H31N3O7S
